Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / amoxicillin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
___ w/ no significant ___ transferred from ___ for evaluation of BRBPR. Patient had his first 
routine
screening colonoscopy today with ___ Endoscopy. 4 sessile
polyps removed. Largest polyp was 13mm and required clip for
hemostasis. Also saw hemorrhoids and diverticulosis. Around 11 
___
had a bowel movement and filled toilet bowel with bright 
red/dark
blood. Felt dizzy/diaphoretic immediately after. He called EMS.
He was taken to ___. Hct at OSH 39. No ASA or
anticoagulation.  
Pt underwent colonoscopy where an ulcer was found in the colon.
An additional clot with likely underlying ulcer was located in
the ascending colon that was actively oozing. 4 clips were 
placed
successfully for hemostasis. 4 ulcers were found in the cecum, 1
with clip still present. No definite active oozing was seen from
these ulcers, though one clip was placed over the second largest
with a prominent pigmented spot. 
Last bloody BM was 130 pm (7 bloody BMs)while prepping for the
colonoscopy. No bloody bms since then. 
H.H drop 14->11.4 (after losing "significant blood" during
colonoscopy and right before ___ (had two BRBPR of about 300cc
each) - in addition to the original ONE episode at 11PM ___.
In ER: 
(Triage Vitals: 98.5 |61 |148/83 |16 |100% RA  ) 
Meds Given: Movie prep
Fluids given: 3L IV crystalloid
Radiology Studies:None
consults called.GI

 
Past Medical History:
He has never been hospitalized in his life. 
No ___
 
Social History:
___
Family History:
Father died of NHL at ___ years
Mother had longstanding DM and died at age ___.
 
Physical Exam:
ADMISSION
Vitals:  ___ Temp: 98.8 PO BP: 133/72 L Lying HR: 61
RR: 18 O2 sat: 100% O2 delivery: Ra 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  No spinal tenderness
RECTUM: Smear of maroon clotted blood. No stool. No bright red
blood
GU:  No foley
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD
Psychiatric [X] WNL

DISCHARGE
98.8 PO 126 / 71 70 18 98 RA 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  No spinal tenderness
RECTUM: No stool. No bright red blood
GU:  No foley
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD
Psychiatric [X] WNL

 
Pertinent Results:
ADMISSION

___ 04:30AM BLOOD WBC-7.4 RBC-4.03* Hgb-13.3* Hct-36.8* 
MCV-91 MCH-33.0* MCHC-36.1 RDW-11.9 RDWSD-39.8 Plt ___
___ 04:30AM BLOOD ___ PTT-23.0* ___
___ 04:30AM BLOOD Glucose-106* UreaN-12 Creat-0.8 Na-144 
K-4.3 Cl-106 HCO3-26 AnGap-12

DISCHARGE

___ 06:50AM BLOOD WBC-4.1 RBC-2.92* Hgb-9.7* Hct-27.1* 
MCV-93 MCH-33.2* MCHC-35.8 RDW-11.9 RDWSD-40.6 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-87 Creat-0.8 Na-142 K-4.4 Cl-107 
HCO3-26 AnGap-9*
___ 06:50AM BLOOD Mg-1.9

Colonoscopy ___
Ulcer in the colon, 4 ulcers in the cecum, 1 with clip still 
present. No definite active oozing was seen from these ulcers, 
though one clip was placed over the second largest with a 
prominent pigmented spot. One endoclip was successfully applied 
for the purpose of hemostasis. 
An ulcer was found in the colon. An additional clot with likely 
underlying ulcer was locted in the ascending colon that was 
actively oozing. 4 clips were placed successfully for 
hemostasis. Four endoclips were successfully applied for the 
purpose of hemostasis. 
 
Brief Hospital Course:
___ w/o significant PMH who p/w BRBPR s/p polypectomy yesterday. 


#BRBPR
On colonoscopy ___ the colon was full of blood. 4 
post-polypectomy ulcers were found in the cecum (1 with prior 
clip in place) though none with ongoing bleeding.  1 clip was 
placed on these due a pigmented spot and question of oozing.  On 
withdrawal, active bleeding was seen from a smaller ulcer with 
an overlying clot in the ascending colon. 4 clips were placed 
with successful hemostasis.  Given the degree of bleeding, GI 
recommended monitoring overnight, understanding the next few 
bowel
movements will be bloody, but expecting them to become darker 
and less frequent. On ___, the patient reported continuing to 
feel well without any abdominal pain or bleeding. He tolerated 
clears for breakfast and a regular diet for lunch. H/H remained 
stable. He did not have a BM before discharge, but given he was 
otherwise stable, it was felt to be safe to discharge him home. 
GI recommended no specific GI follow up other than ongoing 
routine surveillance. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colonic and cecal polyps
Lower gastrointestinal bleeding
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital with bleeding after your 
colonoscopy, which happened in the location where polyps were 
removed. This is a rare complication of polyps being removed. 

During the colonoscopy you had here at ___, 4 ulcers were 
found in the cecum, 1 with clip still present. One ulcer was 
found in the colon. None of these were bleeding. One clip was 
placed over the second largest ulcer with a prominent pigmented 
spot to stop any potential bleeding. An additional clot with 
likely underlying ulcer was located in the ascending colon that 
was actively oozing. 4 clips were placed successfully to stop 
bleeding.

The bleeding has stabilized and is there is nothing further you 
need to do. You don't need to follow up with your GI doctor 
other than for ongoing routine screening. You may continue to 
see some blood in the stool over the next few bowel movements, 
but you should expect them to become darker and less frequent.

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___